US04590273
2.0 g of 3-chloroisoquinoline are boiled under reflux for 120 hours with 20 g of piperazine in 100 ml of diethylene glycol dimethyl ether. Working up as in Example 1 gives 2.4 g of 3-(piperazin-1-yl)-isoquinoline, melting point 95°-96°; its hydrochloride decomposes at 266°-268° C.

reactant | 3-chloroisoquinoline | 2.0 g | ClC=1N=CC2=CC=CC=C2C1 | C9H6ClN
reactant | piperazine | 20 g | N1CCNCC1 | C4H10N2
solvent | diethylene glycol dimethyl ether | 100 ml | COCCOCCOC | C6H14O3
product | 3-(piperazin-1-yl)-isoquinoline | 2.4 g | N1(CCNCC1)C=1N=CC2=CC=CC=C2C1 | C13H15N3
